US05030644
A. 1-Methyl-4,5-diphenyl-2[(2-oxopropyl)thio]-imidazole
The 1-methyl-4,5-diphenylimidazol-2-thiol (0.618 g, 0.00255 mol) was dissolved in 150 milliliters of acetone and to it was added with stirring 0.236 gram (0.00255 mol) of chloroacetone and 0.258 g (0.00255 mol) of triethylamine. The mixture was stirred overnight at room temperature. Since the reaction was not complete as determined by TLC, 0.25 gram of chloroacetone and 0.26 gram of triethylamine was added and the mixture refluxed for one hour. The mixture was then allowed to cool and evaporated in vacuo to obtain a residue. The latter was dissolved in ethyl acetate, the ethyl acetate solution was washed with water, 5% sodium hydroxide and brine, the washed solution was dried (MgSO4), and the dried solution evaporated in vacuo to obtain a still impure product. The latter was put over a silica gel column and developed with 1 percent methanol in methylene chloride to recover from the eluate after evaporating off the solvent, 0.561 gram of 1-methyl-4,5-diphenyl-2[(2-oxo-propyl)thio]-imidazole. The product after recrystallization from isopropyl alcohol hexane had a melting point of

reactant | 1-methyl-4,5-diphenylimidazol-2-thiol | 0.00255 mol, 0.618 g | CN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)S | C16H14N2S
reactant | chloroacetone | 0.00255 mol, 0.236 gram | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 0.00255 mol, 0.258 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetone | 0.25 gram | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 0.26 gram | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | acetone | 150 milliliters | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methyl-4,5-diphenyl-2[(2-oxopropyl)thio]-imidazole | CN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCC(C)=O | C19H18N2OS
